US08563739B2
Synthesis of Complexes using C2 symmetric bis-P ligands (DIOP, BINAP, Cl-MeO-BIPHEP, SEGPHOS, PhanePHOS, DIPAMP, DuPHOS, BDPP, CHIRAPHOS, PPM, PYRPHOS) uses the compound [RuCl2(benzene)], RuCl2(PPh3)3 and trans-RuCl2(NBD)(py)2 as the starting material, while the complexes were prepared in accordance with the procedure published in the literature (Noyori, R.; Takeshi, O.; Hirohito, O. Shohei, H.; Takao, I. J. Am. Chem. Soc. 1995, 117, 2675; Akotsi, O. M.; Meters, K.; Reid, R. D.; McDonald, R.; Bergens, S. H. Chirality 2000, 12, 514-522; BINAP=2,2′-bis(diphenylphosphino)-1,1′-binaphthyl, DIOP=4,5-Bis(diphenylphosphinomethyl)-2,2-dimethyl-1,3-dioxolane, Cl-MeO-BIPHEP=5,5′-Dichloro-6,6′-dimethoxy-2,2′-bis(diphenylphosphino)-1,1′-biphenyl, SEGPHOS=5,5′-Bis(diphenylphosphino)-4,4′-bi-1,3-benzodioxole, PhanePHOS=4,12-Bis(diphenylphosphino)-[2.2]-paracyclophane, DIPAMP=1,2-Bis[(2-methoxyphenyl)(phenyl)phosphino]ethane, Me-DuPHOS=1,2-Bis((2S,5S)-2,5-dimethylphospholano)benzene, BDPP=2,4-Bis(diphenylphosphino)pentane, CHIRAPHOS=Bis(diphenylphosphino)butane, PYRPHOS=3,4-bis(diphenylphosphino)-Pyrrolidine, PPM=4-(diphenylphosphino)-2-[(diphenylphosphino)methyl]-Pyrrolidine. Synthesis of Complexes using C1 symmetric bis-P ligand (JosiPHOS, WalPHOS, MandyPHOS) uses the compound RuCl2(PPh3)3 as the starting material which can be obtained easily from hydrated RuCl3 and PPh3 (Steohenson, T. A.; Wilkinson, G. J. Inorg. Nucl. Chem. 1966, 28, 945-956; Josiphos=1-[Diarylphosphano]-2-[1-(dicyclohexylphosphano)ethyl]ferrocene.), while the complexes and RuCl2[(R,S)-Josiphos](PPh3) were prepared in accordance with the procedure published in the literature (Baratta, W.; Ballico, M.; Chelucci, G.; Siega, K.; Rigo, P. Angew. Chem. Int. Ed. 2008, 47, 4362-4365). The monochloride complex (11) was prepared from (10) by reacting with Et3N. The pre-catalysts used for in situ hydrogenation were [RuCl2BINAP(pyridine)2, RuCl2DIOP(pyridine)2, RuCl2(Josiphos)(pyridine)2]. As non-limiting examples of the present invention the synthesis and the characteristics of the complexes (8-25) are described in detail. All the syntheses were carried out under argon atmosphere, using freshly distilled solvents.

reactant | DIOP | CC(C)CCCCCOC(=O)C1=CC=CC=C1C(=O)OCCCCCC(C)C | C24H38O4
reactant | BINAP | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | SEGPHOS | C1OC2=C(O1)C(=C(C=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)C5=C(C=CC6=C5OCO6)P(C7=CC=CC=C7)C8=CC=CC=C8 | C38H28O4P2
reactant | PhanePHOS | C1CC2=C(C=C(CCC3=C(C=C1C=C3)P(C4=CC=CC=C4)C5=CC=CC=C5)C=C2)P(C6=CC=CC=C6)C7=CC=CC=C7 | C40H34P2
reactant | DIPAMP | COC1=CC=CC=C1P(CCP(C2=CC=CC=C2)C3=CC=CC=C3OC)C4=CC=CC=C4 | C28H28O2P2
reactant | CHIRAPHOS | CC(P(C1=CC=CC=C1)C2=CC=CC=C2)C(P(C3=CC=CC=C3)C4=CC=CC=C4)C | C28H28P2
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | 4,5-Bis(diphenylphosphinomethyl)-2,2-dimethyl-1,3-dioxolane | C1(=CC=CC=C1)P(C1=CC=CC=C1)CC1OC(OC1CP(C1=CC=CC=C1)C1=CC=CC=C1)(C)C | C31H32O2P2
reactant | 5,5′-Dichloro-6,6′-dimethoxy-2,2′-bis(diphenylphosphino)-1,1′-biphenyl | ClC=1C=CC(=C(C1OC)C1=C(C=CC(=C1OC)Cl)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C38H30Cl2O2P2
reactant | 5,5′-Bis(diphenylphosphino)-4,4′-bi-1,3-benzodioxole | C1(=CC=CC=C1)P(C1=C(C2=C(OCO2)C=C1)C1=C(C=CC=2OCOC21)P(C2=CC=CC=C2)C2=CC=CC=C2)C2=CC=CC=C2 | C38H28O4P2
reactant | 1,2-Bis[(2-methoxyphenyl)(phenyl)phosphino]ethane | COC1=C(C=CC=C1)P(CCP(C1=CC=CC=C1)C1=C(C=CC=C1)OC)C1=CC=CC=C1 | C28H28O2P2
reactant | Me-DuPHOS | CC1CCC(C)P1C2=CC=CC=C2P3C(C)CCC3C | C18H28P2
reactant | 2,4-Bis(diphenylphosphino)pentane | C1(=CC=CC=C1)P(C(C)CC(C)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H30P2
reactant | Bis(diphenylphosphino)butane | C1(=CC=CC=C1)P(C1=CC=CC=C1)C(C(C)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C28H28P2
reactant | 3,4-bis(diphenylphosphino)-Pyrrolidine | C1(=CC=CC=C1)P(C1CNCC1P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H27NP2
reactant | 4-(diphenylphosphino)-2-[(diphenylphosphino)methyl]-Pyrrolidine | C1(=CC=CC=C1)P(C1CC(NC1)CP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H29NP2
product | PPh3 | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
